US06376664B1
A solution 4-methyl-2-(2-nitrophenyl)-benzimidazole (5.06 g, 20 mmol) in THF (50 mL) was added to a stirring suspension of NaH (1.2 g, 60% dispersion in mineral oil, 30 mmol) in THF (50 mL) at 0° C. under N2. The mixture was stirred at 0° C. for 30 min. and was then allowed to warm to r.t. for 1 h to form a orange solution. MeI (8.52 g, 60 mmol) was transfered into the above mixture dropwisely by a cannular at r.t under N2. This mixture was stirred for 24 h under N2 to result in a pale yellow solution. Saturated NaHCO3 (100 mL) was added. The water layer was extracted with CHCl3, the combined extracts was washed with brine, dried over Na2SO4. After removing of solvent, the residue was purified by column chromatography on silica gel using a mixture of hexane/ethyl acetate (1:1) as the eluent to give N-methyl-4-methyl-2-(2-nitrophenyl)-benzimidazole (3.0 g, 58%) as a yellow needle crystal. Rf=0.21 (hexane/ethyl acetate 1:1); 1H NMR (300 MHz, CDCl3) δ 2.68 (s, 3H), 3.60 (s, 3H), 7.12 (m, 1H), 7.26 (m, 2H), 7.65-7.80 (m, 3H), 8.23 (d, J=7.9 Hz, 1H). HRMS: Calcd for C15H13N3O2 267.1007, found 267.1007.

reactant | 4-methyl-2-(2-nitrophenyl)-benzimidazole | 20 mmol, 5.06 g | CC1=CC=CC=2N=C(NC21)C2=C(C=CC=C2)[N+](=O)[O-] | C14H11N3O2
reactant | NaH | 30 mmol, 1.2 g | [H-].[Na+]
reactant | MeI | 60 mmol, 8.52 g | CI | CH3I
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-methyl-4-methyl-2-(2-nitrophenyl)-benzimidazole | 3.0 g, 58% | CN1C(=NC2=C1C=CC=C2C)C2=C(C=CC=C2)[N+](=O)[O-] | C15H13N3O2
